US04985419
Thionyl chloride (5.2 cc) is added to a suspension, cooled to 5° C., of 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride (3.9 g) in methylene chloride (120 cc). The suspension is stirred for 3 hours at 25° C. and then concentrated to dryness at 30° C. under reduced pressure (30 mm Hg; 4 kPa) to give a yellow residue which is taken up in methylene chloride (50 cc) at 5° C. Cyclopentylamine (5 cc) is added and the mixture is stirred for 12 hours at 25° C., and saturated sodium bicarbonate solution (150 cc) is then added. The mixture is extracted with ethyl acetate (2×100 cc). The organic phase is washed successively with distilled water (100 cc) and with brine (100 cc), dried over magnesium sulphate, filtered and concentrated to dryness at 40° C. under reduced pressure (30 mm Hg; 4 kPa) to give a yellow oil which is dissolved in boiling acetonitrile (70 cc). Crystallization is primed by scratching. After cooling, the solid is separated by filtration, washed with acetonitrile (2×3 cc) and dried at 40° C. under reduced pressure (1 mm Hg; 0.13 kPa). N-Cyclopentyl-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide (2.1 g) is obtained in the form of cream-coloured crystals, m.p. 132° C.

reactant | Thionyl chloride | 5.2 cc | S(=O)(Cl)Cl | Cl2OS
reactant | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride | 3.9 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)O
reactant | Cyclopentylamine | 5 cc | C1(CCCC1)N | C5H11N
reactant | sodium bicarbonate | 150 cc | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 120 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 70 cc | C(C)#N | C2H3N
product | N-Cyclopentyl-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | 2.1 g | C1(CCCC1)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C25H31N3OS
